US06201154B1
A solution of 4-bromophenylacetylene (0.02 mol) and benzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-bromostyryl benzylsulfide. The title compound was obtained in 80% yield following oxidation. 1HNMR (CDC13) δ 4.52 (2H, s), 6.80 (1H, d, JH,H=11.98), 7.18-7.59 (9H aromatic+1H ethylenic).

reactant | 4-bromophenylacetylene | 0.02 mol | BrC1=CC=C(C=C1)C#C | C8H5Br
reactant | benzyl mercaptan | 0.02 mol | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-bromostyryl benzylsulfide | BrC1=CC=C(\C=C/C(C2=CC=CC=C2)SC(C2=CC=CC=C2)\C=C/C2=CC=C(C=C2)Br)C=C1 | C30H24Br2S
